US07402684B2
(R)-2-[4-(6-Chloro-benzothiazol-2-yloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
Followed the same procedure as that of step 1 in Example 99 with the use of (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester ((147 mg, 0.5 mmol) and 2,6-dichloro-benzothiazole (102 mg, 0.5 mmol) to yield the title product (172 mg, 75% yield); 1H NMR (400 MHz, DMSO-d6); δ 1.41 (s, 9H), 1.75-2.04 (m, 4H), 3.24-3.35 (m, 2H), 3.89-4.12 (m, 3H), 7.08 (d, J=9.2 Hz, 2H), 7.38 (d, J=9.2 Hz, 2H), 7.45 (dd, J1=8.8 Hz, J2=2.0 Hz, 1H), 7.68 (d, J=8.8 Hz, 1H), 8.07 (d, J=2.0 Hz, 1H).

reactant | (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)O | C16H23NO4
reactant | 2,6-dichloro-benzothiazole | 0.5 mmol, 102 mg | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
product | (R)-2-[4-(6-Chloro-benzothiazol-2-yloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 172 mg, 75% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)OC=1SC2=C(N1)C=CC(=C2)Cl | C23H25ClN2O4S
